US06310099B1
2-Iodo-5-methylphenylacetic acid (20.0 g, 72 mmol) and a catalytic amount of 98% sulfuric acid (0.2 ml) are dissolved in isopropyl alcohol (200 ml) and heated to reflux temperature for 48 hours. The solvent is removed on a rotovap and the residual oil partitioned between EtOAc (500 ml) and saturated NaHCO3 solution (500 ml). The organic layer is separated, dried (MgSO4) and concentrated on a rotovap. The residual oil is distilled using a kugelrohr apparatus to give a clear, colorless oil which solidifies on standing at room temperature to give isopropyl 2-iodo-5-methylphenylacetate, m.p. 48-50°.

reactant | 2-Iodo-5-methylphenylacetic acid | 72 mmol, 20.0 g | IC1=C(C=C(C=C1)C)CC(=O)O | C9H9IO2
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
product | isopropyl 2-iodo-5-methylphenylacetate | IC1=C(C=C(C=C1)C)CC(=O)OC(C)C | C12H15IO2
